US06835735B2
Preparation of (3-chlorophenyl)-(7-methoxymethyl-[1,4]-dioxano[2,3-g]quinazolin-4-yl)-amine
The titled compound (25 mg, 63%, m.p. 277-282° C.) was prepared in a similar manner as in Example 8, except for employing 4-chloro-7-methoxymethyl-[1,4]dioxano[2,3-g]quinazoline (30 mg, 0.113 mmol) and 3-chloroaniline (28 mg, 0.226 mmol).

reactant | 4-chloro-7-methoxymethyl-[1,4]dioxano[2,3-g]quinazoline | 0.113 mmol, 30 mg | ClC1=NC=NC2=CC3=C(C=C12)OC(CO3)COC | C12H11ClN2O3
reactant | 3-chloroaniline | 0.226 mmol, 28 mg | ClC=1C=C(N)C=CC1 | C6H6ClN
product | (3-chlorophenyl)-(7-methoxymethyl-[1,4]-dioxano[2,3-g]quinazolin-4-yl)-amine | 25 mg, 63% | ClC=1C=C(C=CC1)NC1=NC=NC2=CC3=C(C=C12)OC(CO3)COC | C18H16ClN3O3
